US07314888B1
In 90 ml of ethanol is dissolved 9.0 g of 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]-propionic acid. After adding 18.2 ml of 1 mol/L aqueous solution of sodium hydroxide, the mixture is stirred at ambient temperature for 10 minutes. The solvent is distilled off from the reaction mixture under reduced pressure, and the residue is purified by reverse phase silica gel column chromatography [eluent; acetonitrile:water=1:1] to obtain 7.6 g of sodium 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]-propionate as a colorless foaming product.

reactant | 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]-propionic acid | 9.0 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(C2)CCC(=O)O)OCC(C)C)C=CC(=C1)OCC(C)C | C28H38O6
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | sodium 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]-propionate | 7.6 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(C2)CCC(=O)[O-])OCC(C)C)C=CC(=C1)OCC(C)C.[Na+] | InChI=1S/C28H38O6.Na/c1-18(2)15-32-23-9-10-24(26(14-23)34-17-20(5)6)28(31)22-7-11-25(33-16-19(3)4)21(13-22)8-12-27(29)30;/h7,9-11,13-14,18-20H,8,12,15-17H2,1-6H3,(H,29,30);/q;+1/p-1
